US05519034
A mixture of the oxalate salt of 1-[1-(2-chlorophenyl)cyclobutyl]-7-methoxy-6-methyl-1,2,3,4-tetrahydroisoquinoline (4.42 g prepared as described in Example RC12), methanol (87 ml) and 37-40% aqueous formaldehyde solution (5.1 ml) was cooled to 10° C. and sodium cyanoborohydride (2.64 g) was added. After 10 minutes the mixture was allowed to warm to ambient temperature and was stirred for 24 hours. The reaction mixture was concentrated and the residue partitioned between ethyl acetate and dilute aqueous sodium hydroxide solution. The organic phase was washed with aqueous ammonia solution, then dried and concentrated to yield 1-[1-(2-chlorophenyl)cyclobutyl]-7-methoxy-2,6-dimethyl-1,2,3,4-tetrahydroisoquinoline (3.3 g).

reactant | 1-[1-(2-chlorophenyl)cyclobutyl]-7-methoxy-6-methyl-1,2,3,4-tetrahydroisoquinoline | 4.42 g | ClC1=C(C=CC=C1)C1(CCC1)C1NCCC2=CC(=C(C=C12)OC)C | C21H24ClNO
reactant | formaldehyde | 5.1 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 2.64 g | C(#N)[BH3-].[Na+]
solvent | methanol | 87 ml | CO | CH4O
product | 1-[1-(2-chlorophenyl)cyclobutyl]-7-methoxy-2,6-dimethyl-1,2,3,4-tetrahydroisoquinoline | 3.3 g | ClC1=C(C=CC=C1)C1(CCC1)C1N(CCC2=CC(=C(C=C12)OC)C)C | C22H26ClNO
